US07015320B2
This example describes the preparation of I where n=2 and R1=phenyl. In a nitrogen-filled glove box, a Fisher-Porter tube was charged with iridium catalyst prepared as in Example 1 (10 mg, 0.012 mmol) and 3-(benzylidene)-2-piperidone (250 mg, 1.3 mmol). Methanol (3 mL) and dichloromethane (3 mL) were added and the system was flushed 4 times with hydrogen and pressured to 60 psi (0.5 MPa) H2. After 18 h the reaction mixture was filtered through a short pad of silica. The solvent was removed at reduced pressure to afford 3-benzyl-2-piperidone (240 mg, 96%) as a white crystalline solid. Chiral HPLC analysis (Chiralpak AS, 60% heptane, 39.2% isopropanol, 0.4% trifluoroacetic acid, 0.4% n-hexylamine, 40° C.) indicated that conversion was 100% and the enantiomeric excess was 83%. 13C NMR: δ 20.10, 24.33, 36.42, 41.31, 41.74, 125.11, 127.32, 128.21, 138.84, 173.69;

reactant | 3-(benzylidene)-2-piperidone | 1.3 mmol, 250 mg | C(C1=CC=CC=C1)=C1C(NCCC1)=O | C12H13NO
reactant | Methanol | 3 mL | CO | CH4O
catalyst | iridium | [Ir] | Ir
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 3-benzyl-2-piperidone | 240 mg, 96% | C(C1=CC=CC=C1)C1C(NCCC1)=O | C12H15NO
